US06903085B1
Step i: Methyl (4-acetaminophenoxy)acetate
4-Acetaminophenol (1.51 g), potassium carbonate (1.38 g) and methyl bromoacetate (1.0 ml) were combined in acetone (40 ml) and heated to reflux for 5 hours. The mixture was allowed to cool to room temperature, filtered and evaporated. The residue was dissolved in ethyl acetate, washed with water and then with brine then dried, filtered and evaporated to give the subtitle compound (2.32 g).

reactant | 4-Acetaminophenol | 1.51 g | N(C(=O)C)C1=CC=C(C=C1)O | C8H9NO2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 1.0 ml | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | Methyl (4-acetaminophenoxy)acetate | 2.32 g | N(C(=O)C)C1=CC=C(OCC(=O)OC)C=C1 | C11H13NO4
